### PR TITLE
[Merged by Bors] - chore: Rename `Nat.factors` to `Nat.primeFactorsList`

### PR DESCRIPTION
**Pull request by YaelDillies**
`Nat.factors` was a very generic name that didn't emphasize that
* It is a list
* It is not all factors but only the prime ones

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Ruben-VandeVelde** [comment]
Can you limit this PR to the renaming?

**Comment by YaelDillies** [comment]
What am I doing that is not the renaming?

**Review by BoltonBailey — APPROVED** [review]
Perhaps Ruben is confused that this changes not just `factors` but every lemma name that referenced `factors` as a substring? I don't think it makes sense to change those in a different PR though, this looks good to me.

**Comment by YaelDillies** [comment]
I should say that I am not particularly attached to the name `primeFactorsList` and I would be happy to hear alternatives.

**Review by b-mehta — APPROVED** [review]

File: Mathlib/Data/Nat/PrimeFin.lean [hunk 1]
```diff
@@ -45,7 +45,7 @@ lemma primeFactors_mono (hmn : m ∣ n) (hn : n ≠ 0) : primeFactors m ⊆ prim
   simp only [subset_iff, mem_primeFactors, and_imp]
   exact fun p hp hpm _ ↦ ⟨hp, hpm.trans hmn, hn⟩
 
-lemma mem_primeFactors_iff_mem_factors : p ∈ n.primeFactors ↔ p ∈ n.factors := by
+lemma mem_primeFactors_iff_mem_factors : p ∈ n.primeFactors ↔ p ∈ n.primeFactorsList := by
```
Comment (semorrison) [inline Mathlib/Data/Nat/PrimeFin.lean:48]:
```suggestion
lemma mem_primeFactors_iff_mem_primeFactorsList : p ∈ n.primeFactors ↔ p ∈ n.primeFactorsList := by
```

File: Mathlib/Data/Nat/Squarefree.lean [hunk 2]
```diff
@@ -25,15 +25,16 @@ open Finset
 
 namespace Nat
 
-theorem squarefree_iff_nodup_factors {n : ℕ} (h0 : n ≠ 0) : Squarefree n ↔ n.factors.Nodup := by
+theorem squarefree_iff_nodup_primeFactorsList {n : ℕ} (h0 : n ≠ 0) :
```
Comment (semorrison) [inline Mathlib/Data/Nat/Squarefree.lean:28]: I think we should add deprecated aliases for all of these, no?

Comment (YaelDillies) [reply Mathlib/Data/Nat/Squarefree.lean:28]: even if the `factors` appearing in the RHS is itself deprecated already?

Comment (semorrison) [reply Mathlib/Data/Nat/Squarefree.lean:28]: How will people using these lemmas know how to update their code? I think they are needed. The point is not to say that they are deprecated but to give people one click fixes.

**Comment by YaelDillies** [comment]
Was a trivial fix

bors merge

**Comment by YaelDillies** [comment]
bors merge
